US05696138
N-(2-methoxy-5-chlorophenyl)-3-(trifluoromethyl)phenylacetic amide.
Dicyclohexylcarbodiimide (2.20 g, 10.7 mmol) was added to a solution of 3-(trifluoromethyl)phenylacetic acid (2.00 g, 9.8 mmol) and 5-chloro-2-methoxyaniline (1.55 g, 9.8 mmol) in dichloromethane (50 ml). The reaction was stirred at RT overnight. The reaction mixture was filtered and the filtrate evaporated to dryness. The residue was recrystallized from methanol/water 2:1 (30 ml). 2.05 g (61%) of the title compound was isolated.

reactant | Dicyclohexylcarbodiimide | 10.7 mmol, 2.20 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-(trifluoromethyl)phenylacetic acid | 9.8 mmol, 2.00 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | 5-chloro-2-methoxyaniline | 9.8 mmol, 1.55 g | ClC=1C=CC(=C(N)C1)OC | C7H8ClNO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-methoxy-5-chlorophenyl)-3-(trifluoromethyl)phenylacetic amide | 2.05 g, 61% | COC1=C(C=C(C=C1)Cl)NC(CC1=CC(=CC=C1)C(F)(F)F)=O | C16H13ClF3NO2
